US04232032
A solution of 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxaldehyde (1.0 g.) in diethylether (10 ml.) was added to a mixture of aluminium chloride (1.17 g.) and lithium aluminium hydride (0.95 g.) in diethyl ether (15 ml.). A vigorous reaction was observed during this addition, the mixture was stirred for 11/2 hours, and then a solution of methyl formate (5 ml.) in diethyl ether (20 ml.) was added at 0° C. The reaction mixture was allowed to reach ambient temperature, and 20% sulphuric acid (25 ml.) was added. The organic layer was separated, dried, and concentrated under reduced pressure to give an oily product which readily solidified on trituration with petroleum ether (b.p. 60°-80° C.) to give 6-formyloxymethyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin, m.p. 75°-77° C.

reactant | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxaldehyde | 1.0 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C=O)(Cl)Cl | C11H6Cl6O3
reactant | aluminium chloride | 1.17 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminium hydride | 0.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl formate | 5 ml | C(=O)OC | C2H4O2
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 6-formyloxymethyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin | C(=O)OCC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C12H8Cl6O4
